US07226991B1
p-Tolyl-malonic acid di-tert-butyl ester (5.695 g, 16.6 mmol) was dissolved in 80 ml of CCl4. To the solution was added N-bromosuccinimide (3.309 g, 16.6 mmol, 1 equivalents) and benzoyl peroxide (220 mg), the reaction mixture was refluxed under argon overnight; the reaction mixture was then cooled to room temperature, and the precipitate that had formed was filtered and washed with hexanes. The combined organic portions was dried, and the residue obtained was purified by chromatography to give (4-bromomethylphenyl)-malonic acid di-tert-butyl ester 4.2559 g (59.5% yield) as white solid. 1H NMR (CDCl3) δ: 7.379 (4H, s), 4.493 (2H, s), 4.435 (1H, s), 1.473 (18H, s) ppm. FABMS (+Ve), m/z 387 [MH+, 81Br], 385 [MH+, 79Br], 331 [MH+—C4H8, 81Br], 329 [MH+—C4H8. 79Br], 275 [MH+—2C4H8, 81Br], 273 [MH+—2C4H8, 79Br]. Anal. calcd. for C18H25BrO4: C, 56.1; H,6.5; Br, 20.7. Found: C, 55.52; H, 6.38; Br, 21.85.

reactant | p-Tolyl-malonic acid di-tert-butyl ester | 16.6 mmol, 5.695 g | C(C)(C)(C)OC(C(C(=O)OC(C)(C)C)C1=CC=C(C=C1)C)=O | C18H26O4
reactant | N-bromosuccinimide | 16.6 mmol, 3.309 g, 1 equivalents | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | CCl4 | 80 ml | C(Cl)(Cl)(Cl)Cl | CCl4
catalyst | benzoyl peroxide | 220 mg | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
product | (4-bromomethylphenyl)-malonic acid di-tert-butyl ester | 4.2559 g, 59.5% yield | C(C)(C)(C)OC(C(C(=O)OC(C)(C)C)C1=CC=C(C=C1)CBr)=O | C18H25BrO4
